datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C[NH2:10].C[N+:21](C)(c1ccc2ccccc2c1)[H:20]>>CC(C)C[NH2+:10][H:20].C[N:21](C)c1ccc2ccccc2c1 10=20;20,21=21",
"NC(=S)[N:21](c1cccc(Cl)c1)[H:20].[N-]=[N+]=Nc1ncnc2nc[n-:10]c12>>NC(=S)[N-:21]c1cccc(Cl)c1.[N-]=[N+]=Nc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"COc1cc(CO)ccc1[O-:10].O=S(=O)(c1ccc(Br)cc1)[O:21][H:20]>>COc1cc(CO)ccc1[O:10][H:20].O=S(=O)(c1ccc(Br)cc1)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCCSCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)C[N+:21](CC(C)O)(C(C)(C)C)[H:20].[NH3+]CCC#CC#CCCC(=O)[O-:10]>>CC(O)C[N:21](CC(C)O)C(C)(C)C.[NH3+]CCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"C[NH2+]CCC(N)=[N+:21](O)[H:20].N/C(CC[NH3+])=[N:10]/O>>C[NH2+]CCC(N)=[N:21]O.N/C(CC[NH3+])=[N+:10](/O)[H:20] 10=20;20,21=21",
"CC(O)[O-:10].C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(O)[O:10][H:20].C[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)(C)NCCCCCC[NH+:21](C(C)(C)C)[H:20].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N:10](CC(=O)[O-])CC(=O)[O-])c1[O-]>>CC(C)(C)NCCCCCC[NH:21]C(C)(C)C.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N+:10](CC(=O)[O-])(CC(=O)[O-])[H:20])c1[O-] 10=20;20,21=21",
"CC1(C(=O)[O:21][H:20])CCCCC1.Cc1cc2c(C)c(C)c3cccnc3c2[n:10]c1>>CC1(C(=O)[O-:21])CCCCC1.Cc1cc2c(C)c(C)c3cccnc3c2[n+:10]([H:20])c1 10=20;20,21=21",
"CC=C1C[N:10]2CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.Cc1cn(C)[n+:21]([H:20])c1C>>CC=C1C[N+:10]2([H:20])CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.Cc1cn(C)[n:21]c1C 10=20;20,21=21",
"Cc1cc(Cl)cc(Cl)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Cl)cc(Cl)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cc2c(OC)nc[n+:21]([H:20])c2c(OC)c1OC.Cc1cccc(C)c1OCC(=O)[O-:10]>>COc1cc2c(OC)nc[n:21]c2c(OC)c1OC.Cc1cccc(C)c1OCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC[NH2+:10][H:20] 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n-:10]1)[NH2+]CCc1nnn[n-]1.[H:20][Cl:21]>>C(C[NH2+]CCc1nnn[n:10]1[H:20])[NH2+]CCc1nnn[n-]1.[Cl-:21] 10=20;20,21=21",
"CC(C)C[NH+:21](C(C)C)[H:20].O=C([O-])c1ccc([N+](=O)[O-])cc1[O-:10]>>CC(C)C[NH:21]C(C)C.O=C([O-])c1ccc([N+](=O)[O-])cc1[O:10][H:20] 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CO)[n:10]2.Cc1c2nccnc2nc[n+:21]1[H:20]>>COc1ccc(OC)c2c1n(C)c(CO)[n+:10]2[H:20].Cc1c2nccnc2nc[n:21]1 10=20;20,21=21",
"CC[NH2+]CCCC(=O)[O-:10].C[NH+:21](CC(O)c1ccccc1)[H:20]>>CC[NH2+]CCCC(=O)[O:10][H:20].C[NH:21]CC(O)c1ccccc1 10=20;20,21=21",
"CC(=O)NNC1CC[N+:21](C)([H:20])CC1.C[N:10]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2>>CC(=O)NNC1CC[N:21](C)CC1.C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2 10=20;20,21=21",
"Cc1cc([O-:10])nn1-c1ccccc1C(=O)[O-].O=C([O-])C1Cc2[nH]cnc2C[NH+:21]1[H:20]>>Cc1cc([O:10][H:20])nn1-c1ccccc1C(=O)[O-].O=C([O-])C1Cc2[nH]cnc2C[NH:21]1 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.NC(=O)c1ccccc1[O:21][H:20]>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.NC(=O)c1ccccc1[O-:21] 10=20;20,21=21",
"O=C(c1ccc(Cl)s1)[O-:10].[O-][n+]1cccc([O:21][H:20])c1>>O=C(c1ccc(Cl)s1)[O:10][H:20].[O-][n+]1cccc([O-:21])c1 10=20;20,21=21",
"Clc1ccc([NH2:10])cc1.[NH3+]Cc1nnn[n:21]1[H:20]>>Clc1ccc([NH2+:10][H:20])cc1.[NH3+]Cc1nnn[n-:21]1 10=20;20,21=21",
"CC([Se-])C[NH2:10].CCCNCC[NH+:21](CCC)[H:20]>>CC([Se-])C[NH2+:10][H:20].CCCNCC[NH:21]CCC 10=20;20,21=21",
"CC1=C/C(=[O+:21]/[H:20])N(C)C=N1.c1c[nH+]c2ccc([NH2:10])cc2c1>>CC1=CC(=[O:21])N(C)C=N1.c1c[nH+]c2ccc([NH2+:10][H:20])cc2c1 10=20;20,21=21",
"C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O:21][H:20].Cc1cc2ccc[n:10]c2c2ncccc12>>C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O-:21].Cc1cc2ccc[n+:10]([H:20])c2c2ncccc12 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccccc1C[NH2:10].Nc1nc([O:21][H:20])cc[nH+]1>>Cc1ccccc1C[NH2+:10][H:20].Nc1nc([O-:21])cc[nH+]1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[NH:21][H:20])cc1.Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n:10]c1C>>CC(=O)Nc1ccc(S(=O)(=O)[NH-:21])cc1.Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n+:10]([H:20])c1C 10=20;20,21=21",
"N#CC1C[N+:21]2([H:20])CCC1CC2.O=C(c1cnc(Br)s1)[O-:10]>>N#CC1C[N:21]2CCC1CC2.O=C(c1cnc(Br)s1)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCc1ccccc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"C1C[NH:10]CC[NH2+]1.O=[N+]([O-])c1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1>>C1C[NH+:10]([H:20])CC[NH2+]1.O=[N+]([O-])c1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1 10=20;20,21=21",
